US05455273
e) trans-N-(4-chloro-3-methylbenzoyl)-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine
from trans-4-[4-(3-hydroxypropyl)methylaminomethyl-phenyl]-N-methylcyclohexylamine and 4-chloro-3-methylbenzoylchloride. Melting point: 98°-100° C.

reactant | trans-4-[4-(3-hydroxypropyl)methylaminomethyl-phenyl]-N-methylcyclohexylamine | OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C18H30N2O
reactant | 4-chloro-3-methylbenzoylchloride | ClC1=C(C=C(C(=O)Cl)C=C1)C | C8H6Cl2O
product | trans-N-(4-chloro-3-methylbenzoyl)-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine | ClC1=C(C=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=C(C=C(C=C2)CCCO)CNC)C=C1)C | C26H35ClN2O2
